US04000144
A solution of 7.2 g of 4-[4-(2-adamantyl)-phenoxy]-butyric acid ethyl ester in 150 ml of ethanol is mixed with 150 ml of sodium hydroxide solution and the mixture is left to stand for 24 hours at 30° C. The reaction solution is then evaporated to dryness in vacuo and the evaporation residue is partitioned between 100 ml of 2 N hydrochloric acid and twice 100 ml. of ether. The organic phases are washed until neutral, dried over sodium sulphate and evaporated to dryness in vacuo. - Recrystallisation of the evaporation residue from ethanol gives 4-[4-(2-adamantyl)-phenoxy]-butyric acid of melting point 163°-165° C.

reactant | 4-[4-(2-adamantyl)-phenoxy]-butyric acid ethyl ester | 7.2 g | C(C)OC(CCCOC1=CC=C(C=C1)C1C2CC3CC(CC1C3)C2)=O | C22H30O3
reactant | sodium hydroxide | 150 ml | [OH-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-[4-(2-adamantyl)-phenoxy]-butyric acid | C12C(C3CC(CC(C1)C3)C2)C2=CC=C(OCCCC(=O)O)C=C2 | C20H26O3
